US05866567
(3aR*,10aS*)-9-(4-Nitrobenzyl)-2,3,3a,4,9,10a-hexahydrobenzo[b]cyclopenta[e][1,4]diazepin-10(1H)-one
To a suspension of 9-(4-nitrobenzyl)-2,3,9,10a-tetrahydrobenzo[b]cyclopenta(e][1,4]diazepin-10(1H)-one (10.2 g, 30 mmol) and bromocresol green in a mixture of methanol (100 mL)-tetrahydrofuran (THF) (30 mL) was added sodium cyanoborohydride (2.08 g, 33 mmol). To this mixture, 10% hydrogen chloride/methanol was slowly added dropwise at the same temperature until the color of the reaction mixture had ceased to change. This reaction mixture was diluted with water and extracted with 3 portions of ethyl acetate. The pooled organic layer was washed serially with water and saturated aqueous NaCl solution, dried over MgSO4, filtered, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane-ethyl acetate=2:1) and crystallized from ethyl acetate-diethyl ether to provide 7.09 g (yield 70%) of the title compound. m.p. 154°-155° C.

reactant | 9-(4-nitrobenzyl)-2,3,9,10a-tetrahydrobenzo[b]cyclopenta(e][1,4]diazepin-10(1H)-one | 30 mmol, 10.2 g | [N+](=O)([O-])C1=CC=C(CN2C3=C(N=C4C(C2=O)CCC4)C=CC=C3)C=C1 | C19H17N3O3
reactant | bromocresol green | CC1=C(C=C(C(=C1Br)O)Br)C2(C=3C=CC=CC3S(=O)(=O)O2)C=4C=C(C(=C(C4C)Br)O)Br | C21H14Br4O5S
reactant | sodium cyanoborohydride | 33 mmol, 2.08 g | C(#N)[BH3-].[Na+]
reactant | hydrogen chloride methanol | Cl.CO
solvent | methanol | 100 mL | CO | CH4O
solvent | water | O | H2O
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | (3aR*,10aS*)-9-(4-Nitrobenzyl)-2,3,3a,4,9,10a-hexahydrobenzo[b]cyclopenta[e][1,4]diazepin-10(1H)-one | 7.09 g, yield 70% | [N+](=O)([O-])C1=CC=C(CN2C3=C(N[C@H]4[C@@H](C2=O)CCC4)C=CC=C3)C=C1 | C19H19N3O3
